US07709481B2
1.25 g 2-(1-Bromo-cyclohexyl)-4-bromomethyl-oxazole-5-carboxylic acid ethyl ester was dissolved in 15 ml ethanol. 176 mg sodium hydride were added and the reaction mixture stirred at 65° C. for one hour. The cooled reaction mixture was neutralized by the addition of acetic acid (pH˜6). 50 mg palladium on charcoal (10%) were added and the reaction mixture was stirred under an atmosphere of hydrogen for one hour. The catalyst was filtered off through a pad of celite, the filtrate was evaporated in vacuo and the resulting crude material was purified by reversed phase HPLC to obtain 370 mg 2-Cyclohexyl-4-ethoxymethyl-oxazole-5-carboxylic acid ethyl ester as an oil.

reactant | 2-(1-Bromo-cyclohexyl)-4-bromomethyl-oxazole-5-carboxylic acid ethyl ester | 1.25 g | C(C)OC(=O)C1=C(N=C(O1)C1(CCCCC1)Br)CBr | C13H17Br2NO3
reactant | sodium hydride | 176 mg | [H-].[Na+]
reactant | acetic acid | pH˜6 | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 2-Cyclohexyl-4-ethoxymethyl-oxazole-5-carboxylic acid ethyl ester | 370 mg | C(C)OC(=O)C1=C(N=C(O1)C1CCCCC1)COCC | C15H23NO4
